US08076329B2
Following the procedure described in example 47§D, but starting from 4′-hydroxybiphenyl-1-carboxylic acid ethyl ester (3 g), potassium carbonate (8.55 g) and 1-bromo-3-chloropropanol (6 mL) in N,N-dimethylformamide (30 mL) affords 4′-(3-chloropropoxy)biphenyl-1-carboxylic acid ethyl ester in quantitative yield used without further purification.

reactant | 4′-hydroxybiphenyl-1-carboxylic acid ethyl ester | 3 g | C(C)OC(=O)C1(CC=CC=C1)C1=CC=C(C=C1)O | C15H16O3
reactant | potassium carbonate | 8.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropanol | 6 mL | BrC(CCCl)O | C3H6BrClO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4′-(3-chloropropoxy)biphenyl-1-carboxylic acid ethyl ester | quantitative yield | C(C)OC(=O)C1(CC=CC=C1)C1=CC=C(C=C1)OCCCCl | C18H21ClO3
